US05087745
(b) Production of gamma-butyrobetaine
159 kg (0.92 kmol) of crude gamma-chlorobutyric acid ethyl ester (content 88 percent) and 107 kg (2.3 kmol) of ethanol were placed in a pressure agitator. Then 57 kg (0.96 kmol) of trimethylamine was added in 15 to 30 minutes. The temperature in this case rose to 30° to 50° C. Then heating to 130° C. was performed. The pressure in this case rose to 5 to 7 bars and then dropped back to about 4 bars. After a stable pressure was reached, it was cooled to 20° C. and the remaining triethylamine was removed. The reaction solution was adjusted to a pH greater than 11 with 138 kg of aqueous NaOH (30 percent). Then it was kept at 60° C. for 1 hour and the pH was optionally readjusted. Then it was cooled to 20° C. and the precipitated NaCl was filtered off. After removal by distillation of the excess triethylamine and solvent, the residue was diluted with water. This solution was adjusted to pH 8, filtered and desalted by electrodialysis. The resultant solution contained 32 percent of gamma-butyrobetaine corresponding to a yield of 80 percent, relative to the gamma-chlorobutyric acid ethyl ester. The content was 99.5 percent (HPLC determination of a dehydrated specimen).

reactant | gamma-chlorobutyric acid ethyl ester | 0.92 kmol, 159 kg | C(C)OC(CCCCl)=O | C6H11ClO2
reactant | ethanol | 2.3 kmol, 107 kg | C(C)O | C2H6O
reactant | trimethylamine | 0.96 kmol, 57 kg | CN(C)C | C3H9N
product | gamma-butyrobetaine | yield of 80 percent | C[N+](C)(C)CCCC(=O)[O-] | C7H15NO2
